US09340555B2
To a stirred solution of N-(3,3-diethoxypropyl)-7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxamide (680 mg, 1.20 mmol) in 10 ml of THF was added 1 ml of 2M HCl. The mixture was stirred at room temperature for 3 hours, and poured into 100 ml of water with vigorous stirring. Saturated NaHCO3 solution was added until pH=9. The precipitates were filtered, washed with water and dried in vacuo to give 7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]-N-(3-oxopropyl)thieno[3,2-b]pyridine-2-carboxamide as brown solid. Yield: 550 mg, 93%.

reactant | N-(3,3-diethoxypropyl)-7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxamide | 1.20 mmol, 680 mg | C(C)OC(CCNC(=O)C1=CC2=NC=CC(=C2S1)OC1=CC=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C)F)OCC | C29H31FN4O5S
reactant | HCl | 2M, 1 ml | Cl | ClH
reactant | water | 100 ml | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]-N-(3-oxopropyl)thieno[3,2-b]pyridine-2-carboxamide | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)NCCC=O)C=C1 | C25H21FN4O4S
